US05455253
3-Acetyl-2-methyl-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone.
4-Amino-3-penten-2-one (2.00 g), 1,3-cyclohexanedione (2.30 g), and 3-nitrobenzaldehyde (3.08 g) were combined in ethanol (180 mL) and heated at reflux for 5 hours. A yellow solid formed upon cooling to ambient temperature. The solid was purified by trituration with hot ethyl acetate/ethanol to yield the title compound (2.65 g) as a yellow solid; mp >250° C.; NMR: 1.67-1.97 (m,2, CH2), 2.13 (s,3, CH3), 2.22 (m,2, CH2), 2.35 (s,3, CH3), 2.47 (m,2, CH2), 5.11 (s,1, CH), 7.52 (m,1, Ar), 7.60 (d,1, J=7.7, Ar), 7.97 (m,2, Ar), 9.32 (s,1, NH); MS: m/z=326(M). Analysis for C18H18N2O4 : Calculated C, 66.25; H, 5.56; N, 8.58, Found: C, 65.99; H, 5.61; N, 8.40 .

reactant | 4-Amino-3-penten-2-one | 2.00 g | NC(=CC(C)=O)C | C5H9NO
reactant | 1,3-cyclohexanedione | 2.30 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 3-nitrobenzaldehyde | 3.08 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | 3-Acetyl-2-methyl-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 2.65 g | C(C)(=O)C1=C(NC=2CCCC(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C18H18N2O4
